US04118561
7-Methyl-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine
A solution of 5.98 g. 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 200 ml. dry dimethylformamide is stirred under nitrogen and 1.58 g. ca. 50% sodium hydride-mineral oil dispersion is added carefully. After stirring for one hour, a solution of 4.47 g. (2.0 ml.) methyl iodide in 10 ml. dry dimethylformamide is added and stirring is continued. Two hours later, 15 ml. gl. acetic acid are added and the reaction mixture is freed of solvent (in vacuo). The residue is stirred with excess aqueous potassium carbonate solution for several hours and the solids are collected, washed with water and dried. A solution of this crude product in 200 ml. water-10 ml. gl. acetic acid is washed with ether. Basification of the acidic solution gives a precipitate that is washed with water and then is crystallized from methanol-acetone to yield 3.44 g. title compound as a hydrate bearing one-third molecule of water per molecule of diamine, m.p. 250°; NMR (dDMSO): δ 3.88 (singlet, 7-CH3), 7.02 (doublet, J=3Hz, 9H), 7.15 (doublet, J=9Hz, 5 or 6H), 7.41 (doublet, J=3Hz, 8H), 7.72 (doublet, J=9Hz, 5 or 6H) p.p.m.; λmax95%EtOH 234 (ε 25,280), 258 (ε 24,540), 317 (ε 9,090), 345 sh (ε 7,810) nm; λmin95%EtOH 243 (ε 23,570), 280 (ε 2,040)nm.

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 2.0 ml | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Methyl-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C11H11N5
